US06084097
A mixture of 1-chloro-3-[2-oxopyrrolidin-1-yl]propane (1 g, 6.2 mmcl), 1-(3-chlorophenyl)piperazine (1.22 g, 6.2 minol) anhydrous Na2CO3 (0.33 g, 3.1 mmol) and Nal (0.093 g, 0.6 mmcl) in dry xylene (15 ml) was stirred at 150° C. for 14 hours. The solvent was removed at reduced pressure and residue was poured on water (30 ml). The separated residue was extracted with dichloromethane (2×25 ml), dried over Na2SO4 and concentrated to give 1-[4-(3-chlorophenyl)piperazin-1-yl]-3-[3-oxopyrrolidin-1-yl]propane as an oil which was purified by flash column chromatography over silica gel using chloroform as fluent, yield 0.72 g (36%).

reactant | 1-chloro-3-[2-oxopyrrolidin-1-yl]propane | 1 g | ClCCCN1C(CCC1)=O | C7H12ClNO
reactant | 1-(3-chlorophenyl)piperazine | 1.22 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | Na2CO3 | 3.1 mmol, 0.33 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Nal | 0.093 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[4-(3-chlorophenyl)piperazin-1-yl]-3-[3-oxopyrrolidin-1-yl]propane | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1CC(CC1)=O | C17H24ClN3O
